US08912180B2
A mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-(3,4-dimethoxy benzyl)-6-(morpholin-4-yl)pyrimidin-2-amine (5.3 g) and trifluoroacetic acid (0.82 mL) was stirred at 10 for 1 hour. The reaction mixture was neutralized by the addition of saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting solid was collected by filtration and washed with diisopropyl ether to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-amine (1.36 g).

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-(3,4-dimethoxy benzyl)-6-(morpholin-4-yl)pyrimidin-2-amine | 5.3 g | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1=CC(=C(C=C1)OC)OC)C=CC=C2)F | C25H26F2N6O3
reactant | trifluoroacetic acid | 0.82 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-amine | 1.36 g | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N)C=CC=C2)F | C16H16F2N6O
